US06329392B1
Combine 1-((2-trimethylsilyl)ethoxymethyl)-1 H-benzimidazole (91.2 g, 367 mmol) and tetrahydrofuran (500 mL). Cool to −78° C. using a dry-ice/acetone bath. Add a solution of n-butyl]ithium (146 mL, 2.5 M in hexane, 367 mmol) at such a rate that the temperature of the reaction mixture remains at about −70° C. After the addition of n-butyllithium is complete allow to stir for 30 minutes at −78° C. Add a solution of 1-(t-butoxycarbonyl)-piperidine-4-(N-methyl-O-methyl)-hydroxamic acid (99.9 g, 367 mmol) in tetrahydrofuran (100 mL). Warm to ambient temperature. After 18 hours, add dropwise a saturated aqueous ammonium chloride solution (100 mL). Add water (300 mL) and extract with diethyl ether. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 10% ethyl acetone/hexane to give a residue. Recrystallize the residue from methanol/water to give (1-(t-butoxycarbonyl)-4-(1-((2-trimethylsilyl)ethoxymethyl)-1 H-benzoimidazole-2-carbonyl)-piperidine.

reactant | n-butyllithium | C(CCC)[Li]
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | ethyl acetone hexane | 10% | C(C)CC(C)=O.CCCCCC | InChI=1S/C6H14.C5H10O/c1-3-5-6-4-2;1-3-4-5(2)6/h3-6H2,1-2H3;3-4H2,1-2H3
